US07456164B2
1-acetyl-4-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)piperazine
To a stirred solution of 1-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine (160 mg, 0.41 mmol) and N,N-diisopropylethylamine (180 μl, 1.03 mmol) in dichloromethane (2 ml) at 0° C. was added dropwise acetic anhydride (47 μl, 0.49 mmol). The reaction was allowed to warm up to room temperature and stirred for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue partitioned between dichloromethane (20 ml) and aqueous sodium carbonate solution (20 ml). The layers were separated and the aqueous layer was extracted again with dichloromethane (20 ml). The organics were combined, dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica gel eluting with dichloromethane:methanol:ammonia (96:4:0.4 to 90:10:1 by volume) to provide the title compound (34 mg, 19%) as a clear oil. 1H NMR (400 MHz, CDCl3) δ 1.78-1.81 (m, 4H), 1.83-1.89 (m, 2H), 1.99 (s, 3H), 2.01-2.03 (m, 2H), 2.06-2.11 (m, 3H), 2.15-2.18 (m, 3H), 2.40 (s, 2H), 2.51-2.53 (m, 4H), 2.63 (t, 2H), 3.22 (t, 2H), 3.42-3.44 (m, 2H), 3.52 (t, 2H), 3.73-3.76 (m, 2H), 4.02 (t, 2H), 6.86 (d, 2H), 7.21 (d, 2H). HRMS ESI+ m/z 430.3052 [MH]+.

reactant | 1-{4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine | 0.41 mmol, 160 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN1CCNCC1 | C23H37N3O2
reactant | N,N-diisopropylethylamine | 1.03 mmol, 180 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetic anhydride | 0.49 mmol, 47 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-acetyl-4-({4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-yl}methyl)piperazine | 34 mg, 19% | C(C)(=O)N1CCN(CC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C25H39N3O3
